US06984653B2
Production of 1-{3-[1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-imidazol-2-yl]propanoyl}pyrrolidine
Using 3-[1-[4-[4-[(2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl)methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid (200 mg), pyrrolidine (0.174 ml), diethyl cyanophosphate (0.303 ml) and triethylamine (0.310 ml), the same reaction as Example 5-(ii) was carried out to yield the titled compound (86 mg).

reactant | 3-[1-[4-[4-[(2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl)methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid | 200 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)O)(F)F | C29H28F3N3O4
reactant | pyrrolidine | 0.174 ml | N1CCCC1 | C4H9N
reactant | diethyl cyanophosphate | 0.303 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | triethylamine | 0.310 ml | C(C)N(CC)CC | C6H15N
product | 1-{3-[1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-imidazol-2-yl]propanoyl}pyrrolidine | 86 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)N1CCCC1)(F)F | C33H35F3N4O3
